US07435731B2
C-[3-(2-Chloro-phenyl)-6-(2,4-difluoro-phenoxy)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yl]-N,N-dimethyl-methanesulfonamide (273 mg, 0.447 mmol) was dissolved in 5 mL chloroform, and 2.5 mL of trifluoroacetic acid was added. The reaction mixture was stirred for 22 hours at room temperature, and was then concentrated to dryness under reduced pressure. The residue was dissolved in 7 mL of MeOH, and sodium borohydride (109 mg, 4.47 mmol) was added. The reaction mixture was stirred for 15 minutes, then concentrated under reduced pressure. The residue was partitioned between 100 mL EtOAc and 100 mL brine, and the organic layer was separated, dried (MgSO4), filtered and concentrated under reduced pressure. The residue was purified via flash chromatography (0% to 40% EtOAc in hexanes) to yield 167 mg of C-[3-(2-Chloro-phenyl)-6-(2,4-difluoro-phenoxy)-1H-pyrazolo[3,4-d]pyrimidin-4-yl]-N,N-dimethyl-methanesulfonamide. Mass Spec. M+H=481.

reactant | C-[3-(2-Chloro-phenyl)-6-(2,4-difluoro-phenoxy)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yl]-N,N-dimethyl-methanesulfonamide | 0.447 mmol, 273 mg | ClC1=C(C=CC=C1)C1=NN(C2=NC(=NC(=C21)CS(=O)(=O)N(C)C)OC2=C(C=C(C=C2)F)F)COCC[Si](C)(C)C | C26H30ClF2N5O4SSi
reactant | trifluoroacetic acid | 2.5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium borohydride | 4.47 mmol, 109 mg | [BH4-].[Na+]
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
product | C-[3-(2-Chloro-phenyl)-6-(2,4-difluoro-phenoxy)-1H-pyrazolo[3,4-d]pyrimidin-4-yl]-N,N-dimethyl-methanesulfonamide | 167 mg | ClC1=C(C=CC=C1)C1=NNC2=NC(=NC(=C21)CS(=O)(=O)N(C)C)OC2=C(C=C(C=C2)F)F | C20H16ClF2N5O3S
